US05145860
2-Aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride (1.00 g) was added to a mixture of dichloromethane and saturated aqueous sodium hydrogencarbonate, and 2-aminomethyl-4,5-bis(4-methoxyphenyl)thiazole was extracted with dichloromethane. The separated organic layer was washed with water and brine, and dried over magnesium sulfate. After filtration, the filtrate was evaporated in vacuo and the resulting residue was dissolved with tetrahydrofuran (20 ml) and methanol (7 ml). N-Isopropyl isocyanate (0.38 ml) was added thereto, and the reaction mixture was stirred at ambient temperature for 90 minutes. The reaction mixture was evaporated in vacuo, and the resulting powder was triturated with isopropyl ether, to give 4,5-bis(4-methoxyphenyl)-2-(3-isopropylureidomethyl)thiazole (1.04 g).

reactant | 2-Aminomethyl-4,5-bis(4-methoxyphenyl)thiazole hydrochloride | 1.00 g | Cl.NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | 2-aminomethyl-4,5-bis(4-methoxyphenyl)thiazole | NCC=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C18H18N2O2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4,5-bis(4-methoxyphenyl)-2-(3-isopropylureidomethyl)thiazole | 1.04 g | COC1=CC=C(C=C1)C=1N=C(SC1C1=CC=C(C=C1)OC)CNC(=O)NC(C)C | C22H25N3O3S
